* C:\Users\birsa\OneDrive\Desktop\Birsan_Ioan_Andrei_Stare_TB_simulare\AEC_caracteristica de frecventa.asc
* Generated by LTspice 24.1.10 for Windows.
Q1 C B 0 0 BC847B
C1 OUT C 10µF
R_Load OUT 0 10K
V_IN IN 0 SINE(0 2m 400) AC 1
C2 B IN 22µF
RB VCC B 3.15Meg
RC VCC C 5k
V§E VCC 0 20V
.model NPN NPN
.model PNP PNP
.lib C:\Users\birsa\AppData\Local\LTspice\lib\cmp\standard.bjt
.ac dec 100 10 1Meg
.backanno
.end
